US07550459B2
4-[(R)-3-(4-Cyclopropylmethoxypiperidin-1-yl)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one (AC00262908)
A reaction flask was charged with (S)-4-(3-Iodo-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one (0.199 g, 0.6 mmol), 4-cyclopropylmethoxypiperidine (0.093 g, 0.6 mmol), and K2CO3 (0.124 g, 0.9 mmol) in MeCN (2 mL) and stirred at 50° for 3 days. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic phases were dried over Na2SO4, filtered, and concentrated. The product was purified by cation exchange column chromatography followed by flash column chromatography (SiO2; EtOAc) to give the title compound (0.138 g, 64%). 1H NMR (CDCl3) d 6.99-6.97 (m, 1H), 6.85-6.79 (m, 3H), 4.47-4.35 (m, 2H), 3.85-3.74 (m, 2H), 3.14-3.08 (m, 1H), 3.11 (d, J=6.8 Hz, 2H), 2.64-2.61 (m, 1H), 2.49-2.46 (m, 1H), 2.10-2.04 (m, 2H), 2.00-1.68 (m, 6H), 1.47-1.38 (m, 2H), 0.90-0.84 (m, 1H), 0.71 (d, J=6.6 Hz, 3H), 0.37-0.33 (m, 2H), 0.04-0.00 (m, 2H); 13C NMR (CDCl3) d 164.6, 145.4, 128.5 123.4, 122.4, 116.9, 115.3, 75.0, 72.5, 67.5, 63.3, 52.6, 51.6, 45.0, 31.6, 31.5, 29.1, 16.7, 10.9, 2.9.

reactant | (S)-4-(3-Iodo-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 0.6 mmol, 0.199 g | IC[C@H](CN1C(COC2=C1C=CC=C2)=O)C | C12H14INO2
reactant | 4-cyclopropylmethoxypiperidine | 0.6 mmol, 0.093 g | C1(CC1)COC1CCNCC1 | C9H17NO
reactant | K2CO3 | 0.9 mmol, 0.124 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 4-[(R)-3-(4-Cyclopropylmethoxypiperidin-1-yl)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 0.138 g, 64% | C1(CC1)COC1CCN(CC1)C[C@H](CN1C(COC2=C1C=CC=C2)=O)C | C21H30N2O3
